US04001241
A mixture of 18.1 g. of methyl 2-methoxy-2-(2-pyridylacetate and 10 g. of dimethylamine in ethanol is stirred at room temperature for 26 hours. The mixture is concentrated, dissolved in chloroform and extracted with brine. The organic phase is dried over magnesium sulfate and filtered and the solvent is removed under reduced pressure to give 2-methoxy-N,N-dimethyl-2-(2-pyridyl)acetamide.

reactant | 2-pyridylacetate | N1=C(C=CC=C1)CC(=O)[O-]
reactant | dimethylamine | CNC | C2H7N
reactant | ethanol | C(C)O | C2H6O
product | 2-methoxy-N,N-dimethyl-2-(2-pyridyl)acetamide | COC(C(=O)N(C)C)C1=NC=CC=C1 | C10H14N2O2
